US09029544B2
(R)—((S)-5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-yl)(2-fluoro-4-(trifluoromethyl)phenyl)methanol
Obtained by starting from (S)-5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carbaldehyde and 1-bromo-2-fluoro-4-(trifluoromethyl)benzene. Tetrahydrofurane is used instead of toluene.

reactant | (S)-5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC2(C1)CCC2)C(C)C)C=O)C=2CCOCC2 | C27H41NO3Si
reactant | 1-bromo-2-fluoro-4-(trifluoromethyl)benzene | BrC1=C(C=C(C=C1)C(F)(F)F)F | C7H3BrF4
solvent | Tetrahydrofurane | O1CCCC1 | C4H8O
product | (R)—((S)-5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-yl)(2-fluoro-4-(trifluoromethyl)phenyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC2(C1)CCC2)C(C)C)[C@@H](O)C2=C(C=C(C=C2)C(F)(F)F)F)C=2CCOCC2 | C34H45F4NO3Si
